2_order_filter_without_OPA
*SPICE Netlist generated by Advanced Sim server on 2017/5/1 13:23:48

*Schematic Netlist:
I1 U1 U2 10
I2 0 NetI2_2 4
R1 NetI2_2 U1 2
R2 U1 U2 2
R3 U2 NetR3_2 0.5
R4 0 U1 5
R5 0 U2 0.3333
R6 0 NetR3_2 0.1667

.SAVE 0 NetI2_2 NetR3_2 U1 U2 I1[v] I2[v] @R1[i] @R2[i] @R3[i] @R4[i] @R5[i]
.SAVE @R6[i] @I1[p] @I2[p] @R1[p] @R2[p] @R3[p] @R4[p] @R5[p] @R6[p]

*PLOT TRAN -1 1 A=NetI2_2
*PLOT OP -1 1 A=NetI2_2

*Selected Circuit Analyses:
.TRAN 2E-8 5E-6 0 2E-8
.OP

.END
